Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, nausea, vomitting
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
Mr. ___ is a ___ y/o gentleman with history of ileal resection
in the 1970s for "ischemic bowel" who was recently admitted to
medicine 10d ago for abdominal bloating and distension.  He
underwent a CT at that time which was unremarkable save for a
large amount of stool in the colon, and was discharged home 5
days ago after several disimpactions and enemas.  He developed
abdominal distension, nausea, and vomiting 2 days later, and has
not been able to tolerate POs or have any bowel movements for 
the
past 3 days.  He describes the emesis as orange and foul
smelling.  An NGT was placed in the ED with immediate removal of
1.5L of gastric contents, after which he felt much better. 
Currently he complains of some mild diffuse abdominal pain but
his nausea is resolved.  We are consulted for small bowel
obstruction
 
Past Medical History:
1. Vitamin B12 deficiency: Monthly injections of vitamin B12.  
2. Chronic kidney disease: seen by Nephrology, likely secondary 
to NSAIDs and previous history of uncontrolled hypertension, 
seen by Dr. ___.  
3. History of recurrent DVTs and PEs: he first had his DVT with 
associated PE in ___, which are recurrent. He started on 
lifetime Coumadin in ___. He was seen in the ___ 
here at ___ and has his INR checked monthly.  
4. Hypertension: He is on lisinopril, nifedipine, and Lasix.  
5. Prostate cancer: He is under surveillance and diagnosed in 
___, seen by ___.  
6. Anemia: Stable chronic anemia, likely secondary to renal  
insufficiency.  
7. Hyperlipidemia  
8. Cerebral palsy: mild right-sided weakness, and decreased 
motor responsiveness.  
9. Seizure: He had one episode in his ___.  
10. Small bowel resection: ___ secondary to ischemia bowel of 
unclear etiology.  
11. Vitamin D deficiency: secondary to hyperparathyroidism with 
associated vitamin D deficiency, on Calcitriol since the ___ 
___, seen by ___.
 
Social History:
___
Family History:
Hypertension both sides, maternal and paternal.  
CVA: Brother died of a CVA. Father died at age ___ of a CVA. 
Maternal grandmother died at age ___ of a CVA.   
Breast cancer: Aunt and mother.  
CHF: Mother.  
Renal failure: Paternal grandfather, diagnosed with renal  
failure at age ___ he died and maternal grandfather in ___ from  

renal failure.  
 
Physical Exam:
Physical Exam: upon admission ___:

T: 98  P: 110  BP: 110/93  RR: 21  O2sat: 97% on RA
General: awake, alert, oriented x 3
HEENT: NCAT, EOMI, anicteric
Heart: RRR, NMRG
Lungs: b/l faint expiratory wheezes, no respiratory distress
Chest: non-tender
Back: no vertebral tenderness, no CVAT
Abdomen: soft, mildly distended, c/o epigastric tenderness but
distractible.  No hernias or masses.
Pelvis: deferred
Extremities: WWP, no CCE
Skin: no rashes, no lesions

Physical Exam: upon discharge ___
T: 98.8 P: 64  BP: 154/64  RR: 18  O2sat: 100% on RA
General: awake, alert, oriented x 3
HEENT: NCAT, EOMI, anicteric
Heart: RRR, NMRG
Lungs: CTAB
Back: no vertebral tenderness, no CVAT
Abdomen: soft, mild tenderness over incicion, No hernias or 
masses.
Extremities: WWP, no CCE
Skin: no rashes, no lesions

 
Pertinent Results:
___ 05:54AM BLOOD WBC-7.2 RBC-3.58* Hgb-10.2* Hct-30.6* 
MCV-85 MCH-28.5 MCHC-33.4 RDW-15.0 Plt ___
___ 12:45PM BLOOD WBC-10.5 RBC-4.27*# Hgb-12.0*# Hct-36.5*# 
MCV-85 MCH-28.0 MCHC-32.8 RDW-14.7 Plt ___
___ 12:45PM BLOOD Neuts-79* Bands-3 Lymphs-12* Monos-5 
Eos-0 Baso-0 ___ Metas-1* Myelos-0
___ 05:50AM BLOOD ___
___ 05:50AM BLOOD Glucose-101* UreaN-29* Creat-2.2* Na-138 
K-4.5 Cl-106 HCO3-25 AnGap-12
___ 12:45PM BLOOD Glucose-137* UreaN-44* Creat-2.8* Na-141 
K-4.7 Cl-98 HCO3-23 AnGap-25*
___ 12:45PM BLOOD ALT-14 AST-32 AlkPhos-63 TotBili-0.4
___ 12:45PM BLOOD Lipase-25
___ 05:50AM BLOOD Calcium-8.7 Phos-2.5* Mg-2.1
___ 06:21PM BLOOD Lactate-1.5

___:  x-ray of the abdomen:

Findings worrisome for small bowel obstruction.

___:  cat scan of abdomen and pelvis:

Small bowel obstruction with relative transition point in the 
right lower quadrant.

___:  cat scan of abdomen and pelvis:

Continued SBO with slightly increased dilatation of the small 
bowel. Again seen is a waist-like narrowing in a RLQ loop of 
bowel, the likely transition site, from possible adhesion. 
Interval progression of previously administered oral contrast 
through the colon suggests only partial obstruction. 

___:  x-ray of the abdomen:

  Two supine views of the mid and lower abdomen and a left 
decubitus views show appreciable increase in the extent of 
severely distended small bowel loops, most containing more air 
than fluid, to maximum small bowel diameter of 64 mm, in the 
left upper quadrant, compared to 59 mm on ___.  
These are findings of severe small bowel obstruction and were 
reported to Dr. ___ by Dr. ___, 9:35 p.m. on ___. 

___:  x-ray of the abdomen:

IMPRESSION:  Two upright and three supine views of the abdomen 
show a greater fluid in the severely distended small bowel, as 
well as a slight increase in volume of gas passed to the large 
bowel, located in the transverse colon. Severe distension of the 
small bowel, maximum diameter from 5 to 6 cm, is comparable to 
the appearance on ___, so it is unclear whether the increase 
in gas in the large colon is redistribution of residual gas or 
constitutes minimal passage of small bowel contents through an 
incomplete obstruction.  
There is no free subdiaphragmatic gas.  Wall of the small bowel 
is minimally thicker today than it was yesterday but not 
severely edematous and there is no intramural emphysema to 
suggest necrosis. 

  

  

  
 
  

 
Brief Hospital Course:
The patient was admitted to the hospital with nausea, 
vomitting,and abdominal distention. A ___ tube was 
placed while the patient was in the emergency room with removal 
of 1.5 liters of feculent drainage.  THe patient underwent a cat 
scan of the abdomen which showed a small bowel obstruction with 
relative transition point in the right lower quadrant.  Based on 
these findings, the patient was placed on bowel rest and given 
intravenous fluids.  He underwent serial abdominal examinations. 
His white blood cell count was closely monitored.  The patient 
transitioned to clear liquids on HD #6 and gradually advanced to 
a regular diet.  His abdominal assessment continued and there 
was no recurrence of abdominal pain.  His foley catheter was 
removed but required replacement after the patient failed to 
void.  He resumed his home medications, including his coumadin, 
with close monitoring of his INR.  His white blood cell count 
normalized.

On ___, Mr. ___ developed increasing abdominal pain.  He was 
kept NPO and given IV fluids during this time.  A nasogastric 
tube was inserted for gastric decompression.  A KUB showed 
dilated air-fluid loops of small bowel. 

On ___, Mr. ___ had minimial NGT output and his NGT was 
discontinued.  His diet as advanced slowly to regular, which he 
initially tolerated.  Unfortunately again, on ___, he began to 
have abdominal pain with solid food and he was made NPO.  
Because of this recurrent pain with food, the patient was taken 
to the Operating Suite for an exploratory laparotomy and lysis 
of adhesions.  Prior the procedure, he required 4 units of FFP 
due to an INR of 4.1.  He follow-up INR was 1.5.  The patient 
tolerated the procedure well.  He was recovered in PACU and 
transferred back to the inpatient ward for further management.

Post-operatively, Mr. ___ was NPO, given IV fluids and had a 
NGT for gastric decompression.  He was given narcotic and 
non-narcotic analgesics for pain.  Due to his history of 
frequent PEs/DVTs, he was started on a heparin drip with a goal 
PTT of 60-80.  Due to lack of adequate venous access, a PICC 
line was inserted.  

Due to his poor nutritional status, Mr. ___ was started on 
TPN on ___ (HD 11).  Physical therapy worked with the patient 
to assess his mobility and encourage mobilization.  Because he 
was not able to take oral medications, the patient required 
frequent treatment of his hypertension (SBP 170-180s) using 
hydralazine 20mg IV.  

On ___, the patient's NGT was discontinued and his diet was 
advanced to sips and then to clears as tolerated, which he 
initially did well with.  His abdomen later became distended and 
he complained of nausea and vomiting.  Again, a NGT was inserted 
and he was kept NPO.  As he began to improve, his NGT  was 
discontinued on ___.  He was started on a clear diet and he 
was started on his oral medications, including coumadin.

On ___/, the patient was discharged to rehab on coumadin and 
lovenox for bridge therapy. Pt is in good condition and healing 
well. 
 
Medications on Admission:
ASA 81', vesicare 5', Calcitriol 0.25', Cholecalciferol ___, 
Vitamin B12 monthly, Colace 100'', Finasteride 5', Lisinopril 
10', MgOxide 500', Nifedipine 60', Omeprazole 20', Tamsulosin 
0.4QHS,  
tramadol 50PRN, Coumadin 3.75mg QM/F, 2.5mg other days, Toprol 
XL  
25', Keflex ___, Miralax PRN  

 
Discharge Medications:
1. Acetaminophen ___ mg PO Q6H:PRN pain 
2. Aspirin 81 mg PO DAILY 
3. Calcitriol 0.25 mcg PO DAILY 
4. Diazepam 5 mg PO Q8H:PRN shoulder spasm 
5. Docusate Sodium 100 mg PO BID 
6. Finasteride 5 mg PO DAILY 
7. Lisinopril 10 mg PO DAILY 
8. Magnesium Oxide 400 mg PO DAILY 
9. Metoprolol Succinate XL 25 mg PO DAILY 
10. NIFEdipine CR 60 mg PO DAILY 
11. Omeprazole 20 mg PO DAILY 
12. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
13. Tamsulosin 0.4 mg PO HS 
14. Tolterodine 1 mg PO BID 
15. TraMADOL (Ultram) 50 mg PO Q6H:PRN pain 
16. Vitamin D ___ UNIT PO DAILY 
17. Warfarin 2.5 mg PO 5X/WEEK (___) TWThSaSu 
18. Warfarin 3.75 mg PO 2X/WEEK (MO,FR) 
19. Enoxaparin Sodium 100 mg SC BID 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
small bowel obstruction

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Out of Bed with assistance to chair or 
wheelchair.

 
Discharge Instructions:
___ were admitted to the hospital with nausea, vomitting, and 
abdominal pain.  ___ underwent a cat scan of the abdomen and ___ 
were found to have a bowel obstruction.  ___ were placed on 
bowel rest and had a tube placed into your stomach.  After the 
abdominal pain resolved, ___ had the tube removed.  ___ are now 
tolerating a regular diet without nausea or vomitting.  Your 
vital signs have been stable and ___ are preparing for discharge 
home with the following instructions:    
 
Followup Instructions:
___